US06372759B1
A) 1-Boc-6-nitroindazole
To a stirring solution of 6-nitroindazole (5 g, 31 mmol) in dichloromethane (100 mL) and DMF (10 mL), was added di-t-butyl dicarbonate (13 g, 61 mmol) followed by DMAP (3.7 g, 31 mmol). After stirring 16 h, the solvent was removed by rotary evaporation and the residue was dissolved in ethyl acetate (300 mL) and washed with 1 M citric acid, brine, satd ag NaHCO3 and again with brine. The organic phase was then dried with MgSO4, filtered and concentrated in vacuo. The solid was suspended in ether with vigorous stirring and filtered, then washed again with ether and dried in vacuo to give 7.1 g (88%) of white solid.

reactant | 6-nitroindazole | 31 mmol, 5 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | di-t-butyl dicarbonate | 61 mmol, 13 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 31 mmol, 3.7 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-Boc-6-nitroindazole | 7.1 g, 88% | C(=O)(OC(C)(C)C)N1N=CC2=CC=C(C=C12)[N+](=O)[O-] | C12H13N3O4
